US07501414B2
2-Bromo-4-nitro-6-trifluoromethyl-phenylamine
Bromine (0.60 mL) dissolved in acetic acid (11 mL) was added dropwise to a solution of 4-nitro-2-trifluoromethyl-phenylamine (2.4 g) in acetic acid (12 mL). The reaction mixture was heated to 120° C. for 2½ hours, poured into water (400 mL) and filtered. The collected solid was washed with water (200 mL) and dried in vacuo to furnish 3.03 g (91% yield) of the title compound as a yellow solid. 1H NMR (500 MHz, DMSO-d6): 7.08 (s, 2H), 8.23 (d, 1H), 8.51 (d, 1H).

reactant | Bromine | 0.60 mL | BrBr | Br2
reactant | 4-nitro-2-trifluoromethyl-phenylamine | 2.4 g | [N+](=O)([O-])C1=CC(=C(C=C1)N)C(F)(F)F | C7H5F3N2O2
reactant | water | 400 mL | O | H2O
solvent | acetic acid | 11 mL | C(C)(=O)O | C2H4O2
solvent | acetic acid | 12 mL | C(C)(=O)O | C2H4O2
product | 2-Bromo-4-nitro-6-trifluoromethyl-phenylamine | 3.03 g, 91% yield | BrC1=C(C(=CC(=C1)[N+](=O)[O-])C(F)(F)F)N | C7H4BrF3N2O2
